US06649600B1
4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carbaldehyde oxime
To a stirred solution of 4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carbaldehyde (1.6 g, 4.3 mmol) in MeOH (30 ml) was added hydroxylamine hydrochloride (1.2 eq, 5.16 mmol, 356 mg) and a solution of NaOAc (trihydrate, 1.5 eq, 6.45 mmol, 890 mg) in water (10 ml). The resulting mixture was stirred at rt overnight. The mixture was concentrated in vacuo and the solid residue was suspended in water (15 ml), collected, washed with water and dried to afford a white powder (1.4 g, 84%).

reactant | 4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carbaldehyde | 4.3 mmol, 1.6 g | O=C1N(C(C=2NC(=NC2N1CCC)C12CCC(CC1)(CC2)C=O)=O)CCC | C20H28N4O3
reactant | hydroxylamine hydrochloride | 5.16 mmol, 356 mg, 1.2 eq | Cl.NO
reactant | NaOAc | 6.45 mmol, 890 mg, 1.5 eq | CC(=O)[O-].[Na+]
solvent | MeOH | 30 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carbaldehyde oxime | 1.4 g, 84% | O=C1N(C(C=2NC(=NC2N1CCC)C12CCC(CC1)(CC2)C=NO)=O)CCC | C20H29N5O3
